data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_122991_1,[C:1]([N:3]([N:6]([H:11])[H:12])[H:10])(/[C:4](=[C:5](\[C:2]([H:17])([H:18])[H:19])[N:7]([H:13])[H:14])[O:8][H:9])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[N:3]([N:6]([H:11])[H:12])[C:4]1([C:5]([C:2]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[H:10])[O:8][H:9],70.03025499996738
MR_236252_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:5]([N:6]([H:9])[H:10])/[N:8]=[C:7](/[C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:7]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])(/[N:8]=[N:5]/[N:6]([H:9])[H:10])[H:13])([H:11])[H:12],68.31216000002485
MR_229656_2,[C@@:1](/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])([C:5](=[O:8])[H:11])([O:7][H:9])[H:10]>>[C:1](=[C:4](/[C:2]([H:13])([H:14])[H:15])[C@@:6]([C:3]([H:16])([H:17])[H:18])([C:5](=[O:8])[H:11])[H:12])(\[O:7][H:9])[H:10],54.82844000000384
MR_68401_0,[C:1]([N:4]([C:5](=[C:6]([C:2]([H:13])([H:14])[H:17])[C:3]([H:15])([H:16])[H:18])[O:7][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:4]=[C:5](/[C:6]([C:2]([H:13])([H:14])[H:17])([C:3]([H:15])([H:16])[H:18])[H:9])[O:7][H:8])([H:10])([H:11])[H:12],55.91903499999688
MR_253310_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:4]([O:7][H:9])=[O:8])[O:6][N:5]([H:10])[H:11]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])[C:4]([O:6][N:5]([H:10])[H:11])([O:7][H:9])[O:8]1,65.71556499998181
MR_16030_1,[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:6]([H:16])[H:17])[N:7]=[C:5]([H:14])[H:15])([N:4]([H:9])[H:10])[H:8]>>[C@:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:6]([H:16])[H:17])[H:8])([N:4]([H:9])[H:10])[N:7]=[C:5]([H:14])[H:15],65.85173249999471
MR_240230_0,[C:1]([C:2]([O:8][O:9][H:10])([H:11])[H:12])([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[N:7]([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[H:18]>>[C:1]([C:2]([N:7]([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[O:8][O:9][H:10],66.72772249999454
MR_150601_2,[C:1]([N:3](/[C:4]([O:5][H:7])=[N:6]/[C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:6]([C:2]([H:12])([H:13])[H:14])/[C:4](=[N:3]/[H:8])[O:5][H:7])([H:9])([H:10])[H:11],73.29513749999961
MR_239192_0,[C:1]1([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])([H:7])[C:2]([N:5]([H:10])[H:11])([H:9])[O:6]1>>[C:1]1([N:5]([H:10])[H:11])([H:7])[C:2]([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])([H:9])[O:6]1,20.166595000019925
MR_673790_0,[C:1]([N:2]([N:3]([C:4]([O:6][H:9])=[O:7])[H:10])[C:5](=[O:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:2]([N:3]([C:5](=[O:8])[H:11])[H:10])[C:4]([O:6][H:9])=[O:7])([H:12])([H:13])[H:14],72.52331249998647
MR_446906_0,[C:1]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])([C:8]([N:5]([H:11])[H:12])(/[C:6]([C:4]([H:21])([H:22])[H:23])=[N:7]/[H:13])[H:14])[O:9][H:10]>>[C:1]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])([C:8]1([H:14])[N:5]([H:11])[C:6]1([C:4]([H:21])([H:22])[H:23])[N:7]([H:12])[H:13])[O:9][H:10],53.9907274999787
MR_331130_0,[C:1](/[C:4]([C:2]([C:3]([N:5]([H:13])[H:14])=[O:10])([O:7][H:11])[O:9][H:15])=[N:8]/[H:17])(=[N:6]\[H:16])[H:12]>>[C:1]([C:3]([N:5]([H:13])[H:14])=[O:10])(/[C:4]([C:2]([O:7][H:11])=[O:9])=[N:8]/[H:17])([N:6]([H:15])[H:16])[H:12],38.51657750006069
MR_507767_0,[C:1](=[C:3]([C:2](=[O:6])[H:9])[H:10])([O:4][H:8])[O:5][H:7]>>[C:1]1([O:4][H:8])([O:5][H:7])[C:3]([H:10])=[C:2]([H:9])[O:6]1,29.463007500019103
MR_78040_1,[C:1]([N:3]([N:5]([H:10])[H:11])[H:9])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[O:7][H:8])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:3]([N:5]([H:10])[H:11])[C@@:4]1([C:2]([H:15])([H:16])[H:17])[C:6]([O:7][H:8])([H:9])[H:14],65.67728750000711
MR_62854_0,[C:1]([N:4]([N:3](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]/[N:6]([H:10])[H:11])[H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:4]1[N:3]([H:8])[C@@:5]1([C:2]([H:15])([H:16])[H:17])[N:7]([N:6]([H:10])[H:11])[H:9])([H:12])([H:13])[H:14],67.15505000002139
MR_696411_1,[C:1](/[C:6]([C:5](=[C:8]([C:3]([H:21])([H:22])[H:26])[C:4]([H:23])([H:24])[H:25])[N:9]([H:11])[H:12])=[C:7](/[C:2]([H:18])([H:19])[H:20])[N:10]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1=[C:5]([N:9]([H:11])[H:12])[C:8]([C:3]([H:21])([H:22])[H:26])([C:4]([H:23])([H:24])[H:25])[C:7]1([C:2]([H:18])([H:19])[H:20])[N:10]([H:13])[H:14])([H:15])([H:16])[H:17],34.29852250000948
MR_147741_2,[C:1](=[C:4](/[N:7]([H:13])[H:14])[N:8]([C:2]([H:15])([H:16])[H:17])[C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])(\[N:6]([H:11])[H:12])[H:10]>>[C:1](/[C:4]([N:7]([H:13])[H:14])=[N:8]/[C:2]([H:15])([H:16])[H:17])([C:5]([C:3]([H:18])([H:19])[H:20])=[O:9])([N:6]([H:11])[H:12])[H:10],41.08618999995784
MR_28244_2,[C@@:1]1([N:4]([H:7])[H:8])([H:6])[C:2]([H:10])([H:11])[C:3]1[N:5][H:9]>>[C:1](=[C:2]([H:10])[H:11])(/[C:3](=[N:5]/[H:9])[H:6])[N:4]([H:7])[H:8],67.70975999999415
